US09302991B2
<Step-2>: 6-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (Example-117, single enantiomer)
The title compound is prepared from 6-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (30 mg, 0.09 mmol, Step-1, single enantiomer) and propionyl chloride (12 mg, 0.13 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 6-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 0.09 mmol, 30 mg | NC1=CC(=NC=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C14H14F3N5O2
reactant | propionyl chloride | 0.13 mmol, 12 mg | C(CC)(=O)Cl | C3H5ClO
product | 6-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | C(CC)(=O)NC1=CC(=NC=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C17H18F3N5O3
